US07576082B2
A solution of cyclopentyl magnesium bromide in ether (2.0 M, 12.5 mL, 25 mmol) (Aldrich) was added dropwise to a suspension of 6-chloroisatin (1.82 g, 10 mmol) (prepared according to the procedure of Kraynack, E. A. et al., supra) in tetrahydrofuran (40 mL) under argon with cooling in a −25° C. bath and magnetic stirring at such a rate that reaction temperature was kept below −10° C. (approximately 30 minutes). Cooling bath was then removed and mixture allowed to warm to room temperature. After stirring for an additional 1 hour, 15% aqueous ammonium chloride solution (50 mL) was added and mixture extracted with ethyl acetate (2×75 mL). Ethyl acetate layers were then washed with water (75 mL), brine (75 mL), combined, dried (MgSO4), filtered and concentrated. Residue was stirred in dichloromethane (100 mL) at room temperature for 30 minutes and filtered to give crude rac-6-chloro-3-cyclopentyl-3-hydroxy-1,3-dihydro-indol-2-one as a white powder. (Yield 0.62 g, 24.6%).

reactant | cyclopentyl magnesium bromide | C1(CCCC1)[Mg]Br
reactant | ether | 25 mmol, 2.0 M, 12.5 mL | CCOCC | C4H10O
reactant | 6-chloroisatin | 10 mmol, 1.82 g | ClC1=CC=C2C(C(NC2=C1)=O)=O | C8H4ClNO2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | rac-6-chloro-3-cyclopentyl-3-hydroxy-1,3-dihydro-indol-2-one | ClC1=CC=C2C(C(NC2=C1)=O)(O)C1CCCC1 | C13H14ClNO2
